US07842713B2
4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-N-(1-methyl-1H-pyrazol-3-yl)-2,3-dihydrobenzofuran-6-carboxamide
To a solution of 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylic acid (1.360 g, 3.363 mmol), 3-amino-1-methyl-pyrazole (653 mg, 6.730 mmol), and triethylamine (0.94 ml, 6.730 mmol) in 20 mL of DCE was added HATU (2.56 g, 6.730 mmol). The mixture was stirred at 60° C. for 2 hr, quenched with water, and extracted with 3×CHCl3. The combined organic layer was washed with 2×H2O, dried with Na2SO4, and concentrated to provide an oil that was purified by SFC to give a white solid (874 mg, 54% yield). 1H NMR (400 MHz, CDCl3) δ 9.30 (s, 1 H) 8.20 (d, J=2.02 Hz, 1 H) 7.24-7.33 (m, 2 H) 7.15-7.22 (m, 1 H) 7.09 (dd, J=10.86, 2.27 Hz, 1 H) 6.82 (d, J=2.27 Hz, 1 H) 5.37 (d, J=56.84 Hz, 1 H) 4.62-4.79 (m, 1 H) 4.53 (dd, J=12.13, 1.77 Hz, 2 H) 4.27-4.42 (m, 1 H) 3.80 (s, 3 H) 2.92 (s, 2 H) 1.50 (s, 6 H); LCMS for C24H23F2N5O4 m/z 484.20 (M+H)+.

reactant | 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-2,3-dihydrobenzofuran-6-carboxylic acid | 3.363 mmol, 1.360 g | FC=1C=C(C=NC1C(=O)N1CC(C1)F)OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)O | C20H18F2N2O5
reactant | 3-amino-1-methyl-pyrazole | 6.730 mmol, 653 mg | NC1=NN(C=C1)C | C4H7N3
reactant | triethylamine | 6.730 mmol, 0.94 ml | C(C)N(CC)CC | C6H15N
reactant | HATU | 6.730 mmol, 2.56 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCE | 20 mL | ClCCCl | C2H4Cl2
product | 4-(5-fluoro-6-(3-fluoroazetidine-1-carbonyl)pyridin-3-yloxy)-2,2-dimethyl-N-(1-methyl-1H-pyrazol-3-yl)-2,3-dihydrobenzofuran-6-carboxamide | 874 mg, 54% yield | FC=1C=C(C=NC1C(=O)N1CC(C1)F)OC1=CC(=CC2=C1CC(O2)(C)C)C(=O)NC2=NN(C=C2)C | C24H23F2N5O4
